US08471005B2
7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine 7-(5-Chloro-2-methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.730 g, 0.00239 mol) was dissolved in Methylene chloride (20 mL, 0.4 mol) and the mixture was treated with m-Chloroperbenzoic acid (0.556 g, 0.00322 mol). The reaction was allowed to stir at room temperature until HPLC showed consumption of starting material. The reaction was partitioned between sodium thiosulfate and DCM and the combined organic layers were dried over saturated sodium sulfate. The solution was filtered and reduced. The solid was then triturated with ether to afford 700 mg of 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow powder. (M+H)=322.6.

reactant | 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine 7-(5-Chloro-2-methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00239 mol, 0.730 g | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)SC)OC.ClC=2C=CC(=C(C2)C2=CC=C1C=NC(=NN12)S(=O)C)OC
reactant | Methylene chloride | 0.4 mol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | m-Chloroperbenzoic acid | 0.00322 mol, 0.556 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 7-(5-Chloro-2-methoxy-phenyl)-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 700 mg | ClC=1C=CC(=C(C1)C1=CC=C2C=NC(=NN21)S(=O)C)OC | C14H12ClN3O2S
